.include osu018.lib

*************Sub Circuits*******************
******************************
*Subcircuit - Inverter

.subckt inv101 in out vdd gnd
M1  out in gnd gnd nfet l=180n w=180n		
M2  vdd in out vdd pfet l=180n w=360n
.ends inv101

******************************

.subckt nand201 in1 in2 out201 vdd gnd
M3  out201 in1 Net-_M3-Pad3_ gnd nfet l=180n w=720n		
M4  Net-_M3-Pad3_ in2 gnd gnd nfet l=180n w=720n
M2  vdd in2 out201 vdd pfet l=180n w=360n
M1  vdd in1 out201 vdd pfet l=180n w=360n
.ends nand201

***********************************

.subckt nand301 in1 in2 in3 out301 vdd gnd
M4  out301 in1 Net-_M4-Pad3_ gnd nfet l=180n w=720n		
M5  Net-_M4-Pad3_ in2 Net-_M5-Pad3_ gnd nfet l=180n w=720n		
M6  Net-_M5-Pad3_ in3 gnd gnd nfet l=180n w=720n		
M2  vdd in2 out301 vdd pfet l=180n w=360n		
M3  vdd in3 out301 vdd pfet l=180n w=360n		
M1  vdd in1 out301 vdd pfet l=180n w=360n
.ends nand301

************************************

.subckt nand401 in1 in2 in3 in4 out401 vdd gnd
M1  vdd in1 out401 vdd pfet l=180n w=360n		
M2  vdd in2 out401 vdd pfet l=180n w=360n		
M7  vdd in3 out401 vdd pfet l=180n w=360n		
M8  vdd in4 out401 vdd pfet l=180n w=360n		
M3  out401 in1 Net-_M3-Pad3_ gnd nfet l=180n w=720n		
M4  Net-_M3-Pad3_ in2 Net-_M4-Pad3_ gnd nfet l=180n w=720n		
M5  Net-_M4-Pad3_ in3 Net-_M5-Pad3_ gnd nfet l=180n w=720n		
M6  Net-_M5-Pad3_ in4 gnd gnd nfet l=180n w=720n	
.ends nand401


********************************************


.subckt charge_pump UP Down CP
M7 UP_bar UP 0 0 nfet l=180n w=180n
M8 DOWN_bar Down 0 0 nfet l=180n w=180n
M12 VDD Down DOWN_bar VDD pfet l=180n w=540n
M14 VDD UP UP_bar VDD pfet l=180n w=540n
M15 UP_bar 0 N001 N001 nfet l=180n w=180n
M16 DOWN_bar 0 N004 N004 nfet l=180n w=180n
M17 N003 N004 N003 N003 nfet l=180n w=180n
M18 0 VDD VDD 0 nfet l=180n w=180n
M19 CP VDD N003 N003 nfet l=180n w=180n
M20 N003 Down 0 0 nfet l=180n w=15u
M21 N001 VDD UP_bar N001 pfet l=180n w=540n
M22 N004 VDD DOWN_bar N004 pfet l=180n w=540n
M23 N002 UP N002 N002 pfet l=180n w=540n
M24 0 0 VDD VDD pfet l=180n w=540n
M25 N002 0 CP N002 pfet l=180n w=540n
M26 VDD N001 N002 VDD pfet l=180n w=45u
V4 VDD 0 1.8
.ends charge_pump





*******************************************



.subckt pfd_501 f_clk_in f_VCO up down
XX1 N001 N005 N002 vddd 0 nand201
XX2 N002 N008 N006 vddd 0 nand201
XX3 N006 N007 N008 vddd 0 nand201
XX4 N007 N010 N011 vddd 0 nand201
XX5 N011 N009 N010 vddd 0 nand201
XX6 N013 N012 N009 vddd 0 nand201
XX7 f_clk_in N005 vddd 0 inv101
XX8 f_VCO N013 vddd 0 inv101
XX9 N002 N003 vddd 0 inv101
XX10 N003 N004 vddd 0 inv101
XX11 N009 N014 vddd 0 inv101
XX12 N014 N015 vddd 0 inv101
XX13 N004 N006 N007 N001 vddd 0 nand301
XX14 N007 N010 N015 N012 vddd 0 nand301
XX15 N012 down vddd 0 inv101
XX16 N006 N002 N009 N010 N007 vddd 0 nand401
XX17 N001 up vddd 0 inv101
V1 vddd 0 1.8
.ends pfd_501



*********************************************

***For VCO***
.subckt cs_inv In Out Vp Vn
M1 N003 Vn 0 0 nfet l=180n w=360n
M4 N002 Vp N001 VDD pfet l=180n w=720n
M3 Out In N002 VDD pfet l=180n w=720n
M2 Out In N003 0 nfet l=180n w=360n
*C1 Out 0 1pf
V1 N001 0 1.8
.ends cs_inv


***********************************

.subckt inv_20_10 In Out
M1 Out In 0 0 nfet l=180n w=360n
M2 Out In N001 N001 pfet l=180n w=720n
V1 N001 0 1.8
.ends inv_20_10

*****






