.include osu018.lib

.subckt inv101 in out vdd gnd
M1  out in gnd gnd nfet l=180n w=180n		
M2  vdd in out vdd pfet l=180n w=360n
.ends inv101

******************************

.subckt nand201 in1 in2 out201 vdd gnd
M3  out201 in1 Net-_M3-Pad3_ gnd nfet l=180n w=720n		
M4  Net-_M3-Pad3_ in2 gnd gnd nfet l=180n w=720n
M2  vdd in2 out201 vdd pfet l=180n w=360n
M1  vdd in1 out201 vdd pfet l=180n w=360n
.ends nand201

***********************************

.subckt nand301 in1 in2 in3 out301 vdd gnd
M4  out301 in1 Net-_M4-Pad3_ gnd nfet l=180n w=720n		
M5  Net-_M4-Pad3_ in2 Net-_M5-Pad3_ gnd nfet l=180n w=720n		
M6  Net-_M5-Pad3_ in3 gnd gnd nfet l=180n w=720n		
M2  vdd in2 out301 vdd pfet l=180n w=360n		
M3  vdd in3 out301 vdd pfet l=180n w=360n		
M1  vdd in1 out301 vdd pfet l=180n w=360n
.ends nand301

************************************

.subckt nand401 in1 in2 in3 in4 out401 vdd gnd
M1  vdd in1 out401 vdd pfet l=180n w=360n		
M2  vdd in2 out401 vdd pfet l=180n w=360n		
M7  vdd in3 out401 vdd pfet l=180n w=360n		
M8  vdd in4 out401 vdd pfet l=180n w=360n		
M3  out401 in1 Net-_M3-Pad3_ gnd nfet l=180n w=720n		
M4  Net-_M3-Pad3_ in2 Net-_M4-Pad3_ gnd nfet l=180n w=720n		
M5  Net-_M4-Pad3_ in3 Net-_M5-Pad3_ gnd nfet l=180n w=720n		
M6  Net-_M5-Pad3_ in4 gnd gnd nfet l=180n w=720n	
.ends nand401


*********************************************
.subckt cs_inv In Out Vp Vn
M1 N003 Vn 0 0 nfet l=180n w=360n
M4 N002 Vp N001 VDD pfet l=180n w=720n
M3 Out In N002 VDD pfet l=180n w=720n
M2 Out In N003 0 nfet l=180n w=360n
*C1 Out 0 1pf
V1 N001 0 1.8
.ends cs_inv


********************************************

.subckt inv_20_10 In Out
M1 Out In 0 0 nfet l=180n w=360n
M2 Out In N001 N001 pfet l=180n w=720n
V1 N001 0 1.8
.ends inv_20_10

*********************************************






