.include osu018.lib
.include sub_ckt_gates.lib

************Phase Detector*******************
.subckt pfd_501 f_clk_in f_VCO up down vddd
XX1 N001 N005 N002 vddd 0 nand201
XX2 N002 N008 N006 vddd 0 nand201
XX3 N006 N007 N008 vddd 0 nand201
XX4 N007 N010 N011 vddd 0 nand201
XX5 N011 N009 N010 vddd 0 nand201
XX6 N013 N012 N009 vddd 0 nand201
XX7 f_clk_in N005 vddd 0 inv101
XX8 f_VCO N013 vddd 0 inv101
XX9 N002 N003 vddd 0 inv101
XX10 N003 N004 vddd 0 inv101
XX11 N009 N014 vddd 0 inv101
XX12 N014 N015 vddd 0 inv101
XX13 N004 N006 N007 N001 vddd 0 nand301
XX14 N007 N010 N015 N012 vddd 0 nand301
XX15 N012 down vddd 0 inv101
XX16 N006 N002 N009 N010 N007 vddd 0 nand401
XX17 N001 up vddd 0 inv101
.ends pfd_501

***********************************************

******************Charge Pump**************
.subckt charge_pump UP Down CP VDD
M7 UP_bar UP 0 0 nfet l=180n w=180n
M8 DOWN_bar Down 0 0 nfet l=180n w=180n
M12 VDD Down DOWN_bar VDD pfet l=180n w=540n
M14 VDD UP UP_bar VDD pfet l=180n w=540n
M15 UP_bar 0 N001 N001 nfet l=180n w=180n
M16 DOWN_bar 0 N004 N004 nfet l=180n w=180n
M17 N003 N004 N003 N003 nfet l=180n w=180n
M18 0 VDD VDD 0 nfet l=180n w=180n
M19 CP VDD N003 N003 nfet l=180n w=180n
M20 N003 Down 0 0 nfet l=180n w=15u
M21 N001 VDD UP_bar N001 pfet l=180n w=540n
M22 N004 VDD DOWN_bar N004 pfet l=180n w=540n
M23 N002 UP N002 N002 pfet l=180n w=540n
M24 0 0 VDD VDD pfet l=180n w=540n
M25 N002 0 CP N002 pfet l=180n w=540n
M26 VDD N001 N002 VDD pfet l=180n w=45u
.ends charge_pump

*************************************************

******************VCO***************************
.subckt vco_19_16 Vinvco osc vdd
M7 Vp Vn 0 0 nfet l=180n w=360n
M8 Vp Vp VDD VDD pfet l=180n w=1800n
R1 Vn Vinvco 1
XU22 osc_fb Osc inv_20_10
XX3 n1 osc_fb Vp Vn cs_inv
XX16 N005 n1 Vp Vn cs_inv
XX17 N004 N005 Vp Vn cs_inv
XX18 N003 N004 Vp Vn cs_inv
XX19 N002 N003 Vp Vn cs_inv
XX20 N001 N002 Vp Vn cs_inv
XX21 osc_fb N001 Vp Vn cs_inv
.ends vco_19_16

****************************************************

******************Frequency divider(by 2)*******************************
.subckt freq_div_2 clock Q VDD
M1 N004 N002 0 0 nfet l=180n w=180n
M2 VDD N002 N004 VDD pfet l=180n w=540n
M5 N003 N004 0 0 nfet l=180n w=180n
M6 VDD N004 N003 VDD pfet l=180n w=540n
M7 D clock_b N002 0 nfet l=180n w=180n
M3 N002 clock D VDD pfet l=180n w=540n
M4 N002 clock N003 0 nfet l=180n w=180n
M8 N003 clock_b N002 VDD pfet l=180n w=540n
M9 Q N001 0 0 nfet l=180n w=180n
M10 VDD N001 Q VDD pfet l=180n w=540n
M11 D Q 0 0 nfet l=180n w=180n
M12 VDD Q D VDD pfet l=180n w=540n
M13 N004 clock N001 0 nfet l=180n w=180n
M14 N001 clock_b N004 VDD pfet l=180n w=540n
M15 N001 clock_b D 0 nfet l=180n w=180n
M16 D clock N001 VDD pfet l=180n w=540n
M17 clock_b clock 0 0 nfet l=180n w=180n
M18 VDD clock clock_b VDD pfet l=180n w=540n
.ends freq_div_2
***************************************


